US07592477B2
Step b) Preparation of methyl 4-(bromomethyl)-1-naphthoate
To a stirred solution of methyl 4-methyl-1-naphthoate (22.5 g, 0.112 mol) in CCl4 (500 mL) was added NBS (22 g, 0.123 mol) and benzoylperoxide (10% w/w). The reaction mixture was allowed to reflux at 80° C. for 7 h. The reaction mixture was cooled to rt and filtered off. The solid and concentrated under vacuum and the obtained crude product (30 g) was used for further reaction.

reactant | methyl 4-methyl-1-naphthoate | 0.112 mol, 22.5 g | CC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H12O2
reactant | NBS | 0.123 mol, 22 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4-(bromomethyl)-1-naphthoate | 30 g | BrCC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H11BrO2
